US07718611B2
Methyl N-(tert-butoxycarbonyl)-3-(pyridin-3-yl)-L-alaninate
(2S)—N-(tert-Butoxycarbonyl)-3-(pyridin-3-yl)alanine (25.00 g, 93.88 mmol) is dissolved in 300 ml of dichloromethane under argon. Methanol (11.4 ml, 9.02 g, 281 mmol, 3 equivalents) and one grain of DMAP are added. The mixture is then cooled to 0° C. EDC (19.80 g, 103 mmol, 1.1 equivalents) is added. After 5 min, the ice bath is removed and the mixture is left to stir at RT over 1 h. The mixture is then concentrated in vacuo, and ethyl acetate is added to the residue and the mixture is extracted against a saturated sodium hydrogen carbonate solution. The aqueous phase is reextracted once with ethyl acetate, then the combined organic phases are washed with 0.5 M citric acid and then once again with a saturated sodium hydrogen carbonate solution. The organic phase is dried over sodium sulfate, filtered and concentrated in vacuo. An oil remains, which crystallizes during drying in an oil-pump vacuum. Yield: 23.60 g (90% of theory).

reactant | (2S)—N-(tert-Butoxycarbonyl)-3-(pyridin-3-yl)alanine | 93.88 mmol, 25.00 g | C(C)(C)(C)OC(=O)N[C@@H](CC=1C=NC=CC1)C(=O)O | C13H18N2O4
reactant | Methanol | 281 mmol, 11.4 ml, 9.02 g, 3 equivalents | CO | CH4O
reactant | EDC | 103 mmol, 19.80 g, 1.1 equivalents
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | Methyl N-(tert-butoxycarbonyl)-3-(pyridin-3-yl)-L-alaninate | C(C)(C)(C)OC(=O)N[C@@H](CC=1C=NC=CC1)C(=O)OC | C14H20N2O4
